US04675320
A mixture of 5 g. (0.02 mole) of α-hydroxy-3-phenylbenzofuran-7-acetonitrile and 2 g. of methylamine in 100 ml. of dichloromethane is heated to its reflux temperature, then stirred at 20° C. for 16 hours. The mixture is evaporated to provide a residue which is dissolved in benzene which has been previously saturated with hydrogen chloride. The mixture is heated for 15 minutes on a steam bath, then saturated with petroleum ether, whereupon a white precipitate of α-methylamino-3-phenylbenzofuran-7-acetonitrile hydrochloride forms. A 5 gram sample of this intermediate is suspended in 50 ml. of glacial acetic acid, 5 g. of dinitrogen tetraoxide is added, and the mixture is stirred for 24 hours at 20° C. The volatiles are removed by evaporation to provide a residue which is dissolved in 10 ml. of acetic acid, and the mixture is heated at its reflux temperature while adding 30 ml. of 12N hydrochloric acid. Refluxing is continued for 1 hour, then the mixture is cooled. A green solid is obtained which is recrystallized from glacial acetic acid to provide light green crystals of α-methylamino-2-nitro-3-phenylbenzofuran-7-acetic acid, m.p. 237° C. (dec.), having the structure

reactant | α-hydroxy-3-phenylbenzofuran-7-acetonitrile | 0.02 mole | OC(C#N)C1=CC=CC=2C(=COC21)C2=CC=CC=C2 | C16H11NO2
reactant | methylamine | CN | CH5N
reactant | hydrogen chloride | Cl | ClH
reactant | α-methylamino-3-phenylbenzofuran-7-acetonitrile hydrochloride | Cl.CNC(C#N)C1=CC=CC=2C(=COC21)C2=CC=CC=C2
reactant | dinitrogen tetraoxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-methylamino-2-nitro-3-phenylbenzofuran-7-acetic acid | CNC(C(=O)O)C1=CC=CC=2C(=C(OC21)[N+](=O)[O-])C2=CC=CC=C2 | C17H14N2O5
